US07750001B2
For example, a mixture of 6-chloro-2-(2-difluoromethylbenzimidazol-1-yl)-4-morpholino-1,3,5-triazine (3.66 g, 10 mmol), piperazine (3.45 g, 40 mmol), and acetone (50 ml) was stirred at room temperature for 16 hours. The reaction mixture was poured into water, and precipitated crystals were filtered, and washed with methanol to afford 2-(2-difluoromethylbenzimidazol-1-yl)-4-morpholino-6-(piperazin-1-yl)-1,3,5-triazine (3.87 g, 9.3 mmol) in a yield of 93% as colorless crystals.

reactant | 6-chloro-2-(2-difluoromethylbenzimidazol-1-yl)-4-morpholino-1,3,5-triazine | 10 mmol, 3.66 g | ClC1=NC(=NC(=N1)N1C(=NC2=C1C=CC=C2)C(F)F)N2CCOCC2 | C15H13ClF2N6O
reactant | piperazine | 40 mmol, 3.45 g | N1CCNCC1 | C4H10N2
reactant | acetone | 50 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 2-(2-difluoromethylbenzimidazol-1-yl)-4-morpholino-6-(piperazin-1-yl)-1,3,5-triazine | 9.3 mmol, 3.87 g, yield of 93% | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N1CCNCC1)C=CC=C2)F | C19H22F2N8O
